US07495001B2
J] 2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridine-3-carbaldehyde
1.00 g (3.74 mmol) of the above prepared [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol was dissolved in 19 ml of CH2Cl2 and treated with 3.253 g (10 eq.) of MnO2. After vigorous stirring for 4 h at ambient temperature, the reaction mixture was filtered over Celite and carefully rinsed with CH2Cl2. Evaporation of the solvent left 0.920 g of the title compound, pure according to NMR and used as such for the next step.

reactant | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | CC1=NC(=CC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO
solvent | CH2Cl2 | 19 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 3.253 g, 10 eq. | O=[Mn]=O
product | 2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridine-3-carbaldehyde | CC1=NC(=CC=C1C=O)C1=CC=C(C=C1)C(F)(F)F | C14H10F3NO
